resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.980547
R2 0 n2 1.012939
R3 0 n4 0.984421
R4 n1 n3 0.985206
R5 n1 n5 0.988483
R6 n2 n3 0.989888
R7 n2 n6 0.993829
R8 n3 n7 11.689901
R9 n4 n5 0.994367
R10 n4 n6 0.999633
R11 n5 n7 0.998227
R12 n6 n7 0.990194
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
